US07585880B2
3-(2-fluoro-4-{[4-({[2-(4-fluorophenyl)ethyl][4-(4-fluorophenyl)-1,3-thiazol-2-yl]amino}methyl)benzyl]oxy}-phenyl)propanoic acid
A mixture of 2-bromo-1-(4-fluorophenyl)ethanone (217 mg, 1.0 mmol), N-[2-(4-fluorophenyl)ethyl]thiourea (198 mg, 1.0 mmol) and N,N-dimethylformamide (5 mL) was stirred at room temperature for 1 hr. Sodium hydride (100 mg, in oil, 2.5 mmol) was added to the reaction mixture at room temperature, and the mixture was stirred at room temperature for 1 hr. Ethyl 3-(4-{[4-(chloromethyl)benzyl]oxy}-2-fluorophenyl)propanoate (350 mg, 1.0 mmol) was added, and the mixture was further stirred at room temperature for 2 hr. The reaction mixture was poured into 1N hydrochloric acid and the mixture was extracted with ethyl acetate. The organic layer was concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:19-3:2 in volume ratio) to give a yellow oil. The oil was dissolved in a mixed solvent of ethanol (5 mL) and tetrahydrofuran (5 mL), and 2N aqueous sodium hydroxide solution (2 mL) was added. The mixture was stirred at room temperature for 2 hr. The reaction mixture was poured into 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated to give the title compound (264 mg, yield 44%, 3 steps) as a pale-green oil.

reactant | 2-bromo-1-(4-fluorophenyl)ethanone | 1.0 mmol, 217 mg | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
reactant | N-[2-(4-fluorophenyl)ethyl]thiourea | 1.0 mmol, 198 mg | FC1=CC=C(C=C1)CCNC(=S)N | C9H11FN2S
reactant | Sodium hydride | 2.5 mmol, 100 mg | [H-].[Na+]
reactant | Ethyl 3-(4-{[4-(chloromethyl)benzyl]oxy}-2-fluorophenyl)propanoate | 1.0 mmol, 350 mg | ClCC1=CC=C(COC2=CC(=C(C=C2)CCC(=O)OCC)F)C=C1 | C19H20ClFO3
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 2N, 2 mL | [OH-].[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-(2-fluoro-4-{[4-({[2-(4-fluorophenyl)ethyl][4-(4-fluorophenyl)-1,3-thiazol-2-yl]amino}methyl)benzyl]oxy}-phenyl)propanoic acid | 264 mg, yield 44% | FC1=C(C=CC(=C1)OCC1=CC=C(C=C1)CN(C=1SC=C(N1)C1=CC=C(C=C1)F)CCC1=CC=C(C=C1)F)CCC(=O)O | C34H29F3N2O3S
